US07064139B2
Preparation of 2-(2,4,6-trimethylbenzylsulfinyl)-pyridine-N-oxide (Compound 88)
To a mixture of 7.8 g (0.03 mole) of 2-(2,4,6-trimethylbenzylthio)-pyridine-N-oxide in 50 ml of chloroform were added, with stirring at less than 10° C., a mixture of 6 g (0.03 mole) of metachloroperbenzoic acid (85%) in 100 ml of chloroform. The mixture was stirred overnight at room temperature. The mixture was then washed with saturated sodium bicarbonate solution, the chloroform layer was separated and dried over sodium sulfate. The sodium sulfate was filtered off and the chloroform solution evaporated to leave a residue, which was crystallized from ethanol. The product was filtered off, and air-dried, melting point 164–166° C., yield 7.2 g. C, H, N, calculated for C15H17NO2S: % C=65.43, % H=6.22; % N=5.09. Found: % C=66.22; % H=6.63; % N=5.13.

reactant | 2-(2,4,6-trimethylbenzylthio)-pyridine-N-oxide | 0.03 mole, 7.8 g | CC1=C(CSC2=[N+](C=CC=C2)[O-])C(=CC(=C1)C)C | C15H17NOS
reactant | metachloroperbenzoic acid | 0.03 mole, 6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,4,6-trimethylbenzylsulfinyl)-pyridine-N-oxide | CC1=C(CS(=O)C2=[N+](C=CC=C2)[O-])C(=CC(=C1)C)C | C15H17NO2S
